US08877749B2
A mixture of ethyl 3-methylenecyclopentanecarboxylate (900 mg, 5.84 mmol) and lithium hydroxide (280 mg, 11.67 mmol) in THF (15 mL) and water (6 mL) was heated at 65° C. for 18 hours. Analysis by TLC indicated that the starting ester had been completely consumed. The organic solvents were removed via rotary evaporator, and the remaining aqueous solution was freeze-dried to yield lithium 3-methylenecyclopentanecarboxylate. 1H NMR (400 MHz, CD3OD) δ ppm 4.84-4.73 (m, 2H), 2.71-2.59 (m, 1H), 2.57-2.35 (m, 3H), 2.29-2.16 (m, 1H), 2.01-1.91 (1H, m), 1.84-1.72 (m, 1H,).

reactant | ethyl 3-methylenecyclopentanecarboxylate | 5.84 mmol, 900 mg | C=C1CC(CC1)C(=O)OCC | C9H14O2
reactant | lithium hydroxide | 11.67 mmol, 280 mg | [OH-].[Li+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | lithium 3-methylenecyclopentanecarboxylate | C=C1CC(CC1)C(=O)[O-].[Li+] | InChI=1S/C7H10O2.Li/c1-5-2-3-6(4-5)7(8)9;/h6H,1-4H2,(H,8,9);/q;+1/p-1
